US08124606B2
(S)-ethyl 4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoate (280 mg, 0.643 mmol) was suspended in 1,4-Dioxane (3.22 mL) and treated with 1N LiOH (3.215 mL, 3.22 mmol). The reaction mixture was stirred at room temperature for 23 h. The reaction mixture was concentrated in vacuo until most of the dioxane was gone and acidified with HCl (4.5 N) until a thick precipitate resulted. It was filtered off, washed with water and dried in vacuum to afford (S)-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid (225 mg, 0.552 mmol, 86% yield) as a brown solid. [M+H] calc'd for C22H25N5O3, 408; found, 408.

reactant | (S)-ethyl 4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoate | 0.643 mmol, 280 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)OCC)C=C3)CCC2 | C24H29N5O3
reactant | LiOH | 3.22 mmol, 1N, 3.215 mL | [Li+].[OH-]
solvent | 1,4-Dioxane | 3.22 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | 0.552 mmol, 225 mg, 86% yield | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCC2 | C22H25N5O3
